US08183386B2
78.5 g (0.80 mol) of potassium acetate, 5.0 g (0.08 mol) of acetic acid, and 123.7 g (0.80 mol) of 2-chloroacetophenone were heated under reflux in 500 mL of ethanol for 6 hours. After completion of heating, the reaction mixture was cooled to room temperature, deposited potassium chloride was filtered off, and the ethanol was distilled off in vacuo to obtain a pale brown oily material. This oily material was poured into one litter of water, and a precipitated solid was collected by filtration and recrystallized from methanol to obtain 113.1 g (yield: 79.3%) of 2-acetoxyacetophenone as a pale yellow solid.

reactant | potassium acetate | 0.80 mol, 78.5 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 0.08 mol, 5.0 g | C(C)(=O)O | C2H4O2
reactant | 2-chloroacetophenone | 0.80 mol, 123.7 g | ClCC(=O)C1=CC=CC=C1 | C8H7ClO
reactant | potassium chloride | [Cl-].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-acetoxyacetophenone | 113.1 g, yield: 79.3% | C(C)(=O)OCC(=O)C1=CC=CC=C1 | C10H10O3
